US07067529B2
A solution of 1-(3-sec-butoxy-benzyl)-4-chloromethyl-6,7-dimethoxy-isoquinoline (1.0 g, 2.5 mmol) in dimethylsulfoxide (2 mL) was added to a solution of sodium azide (813 mg, 12.5 mmol) in dimethylsulfoxide (10 mL) prewarmed to 65° C. The solution was stirred at 65° C. for 1½ hrs. The reaction mixture was cooled and dissolved in ethyl acetate (100 mL). This ethyl acetate solution was washed with saturated aqueous sodium bicarbonate solution (2×20 mL), saturated aqueous sodium chloride solution (20 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to afford 4-azidomethyl-1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinoline (550 mg, 54%) as a light yellow solid which was used without further purification: APCI-MS m/e calcd for C23H26N4O3 (M+H+) 407.5, found 406.9; 1H NMR (300 MHz) compatible.

reactant | 1-(3-sec-butoxy-benzyl)-4-chloromethyl-6,7-dimethoxy-isoquinoline | 2.5 mmol, 1.0 g | C(C)(CC)OC=1C=C(CC2=NC=C(C3=CC(=C(C=C23)OC)OC)CCl)C=CC1 | C23H26ClNO3
reactant | sodium azide | 12.5 mmol, 813 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-azidomethyl-1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinoline | 550 mg, 54% | N(=[N+]=[N-])CC1=CN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=CC=C1)OC(C)CC | C23H26N4O3
